Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
asymptomatic hypotension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ female C1D5 RVD for multiple myeloma, with
a history of hypothyroidism and multiple myeloma here w/
hypotension unresponsive to IVF. 

She was in the ___ clinic today for her second chemo
infusion when she was found to be hypotensive with BP 75/50.
Despite this, patient was entirely asymptomatic, denying
presyncopal sx. She did not receive chemotherapy, but was given 
2
L of IV fluids and sent to the ED with BP of 86/51. 

Patient has felt well for the last several weeks, only noting
intermittent fatigue this last week since starting RVD 
treatment.
Specifically she denies any fever, headache, neck pain or
stiffness, cough, sore throat, chest pain, shortness of breath,
DOE, abdominal pain, nausea, vomiting, diarrhea, dysuria,
hematuria, joint pain or swelling, changes in weight,
palpitations, hematochezia, melena, decreased p.o. intake. She
states her blood pressure typically runs in the ___ systolic.

Was on a prednisone taper approx 1 month ago, but has felt well
since then. Similarly, had some diarrhea w/ hematochezia during
radiation treatment, but this has been entirely resolved for
approx 1 month. 

Endorses her baseline back pain since her L2 fracture, which she
states radiates down to her hips and right thigh with some
numbness of thigh, but without other parasthesias in ___. 

In the ED, her physical exam was unremarkable. They obtained 
BCx,
UCx. 

In the ED, studies notable for:
CXR: No acute cardiopulmonary abnormality.
ECG: NSR
Labs notable for: baseline anemia 10.8 (baseline )

In the ED, pt was given: 2L LR, home acyclovir & Bactrim &
levothyroxine
 
Past Medical History:
- GERD 
- Hypothyroidism
- L foot ___ neuroma
 
Social History:
___
Family History:
Sister w/ ___. 
Dad on thyroid medications & with CAD. 
No known FHx of blood or bone cancers.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================
Vitals: ___ 0727 Temp: 99.3 PO BP: 96/58 HR: 84 RR: 18 O2
sat: 99% O2 delivery: Ra 
Gen: sitting upright in bed, NAD
NEURO: A&Ox3. CN II-XII intact. ___ strength throughout.
sensation to light touch intact throughout. 
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: no JVD. 
LYMPH: trace cervical LAD, mobile <1cm. 
CV: Nl rate, regular rhythm. No MRG.   
LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
ABD: ND, nl bowel sounds, NT, no HSM.
EXT: WWP. No ___ edema. 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses

DISCHARGE PHYSICAL EXAM: 
========================
 
Pertinent Results:
ADMISSION LABS: 
==============
___ 10:45PM BLOOD WBC-5.2 RBC-3.74* Hgb-10.1* Hct-31.9* 
MCV-85 MCH-27.0 MCHC-31.7* RDW-14.7 RDWSD-45.6 Plt ___
___ 10:45PM BLOOD Neuts-37.9 Lymphs-12.0* Monos-7.4 
Eos-37.3* Baso-0.8 Im ___ AbsNeut-1.96 AbsLymp-0.62* 
AbsMono-0.38 AbsEos-1.93* AbsBaso-0.04
___ 02:00PM BLOOD Glucose-86 UreaN-6 Creat-0.6 Na-140 K-3.8 
Cl-102 HCO3-29 AnGap-9*
___ 02:00PM BLOOD ALT-24 AST-24 AlkPhos-52 TotBili-<0.2
___ 02:00PM BLOOD TotProt-5.4* Albumin-3.3* Globuln-2.1 
Calcium-8.0*

OTHER PERTINENT LABS: 
===================
___ 09:50AM BLOOD TSH-4.1
___ 09:50AM BLOOD Cortsol-7.5
___ 11:41AM BLOOD %HbA1c-5.6 eAG-114
___ 09:50AM BLOOD calTIBC-295 VitB12-403 Folate-14 
Ferritn-409* TRF-227
___ 09:50AM BLOOD Iron-30

MICRO DATA: 
===========
___ 3:15 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 2:40 pm BLOOD CULTURE      #1 SOURCE: VENIPUNCTURE. 

   Blood Culture, Routine (Pending):    No growth to date. 

IMAGING: 
========
CXR (___): 
No acute cardiopulmonary abnormality.

TTE (___): LVEF 65%. Normal biventricular cavity sizes and 
regional/global biventricular systolic function. Normal 
estimated pulmonary artery systolic pressure.

DISCHARGE LABS: 
===============
___ 05:48AM BLOOD WBC-3.9* RBC-3.96 Hgb-10.9* Hct-34.3 
MCV-87 MCH-27.5 MCHC-31.8* RDW-14.3 RDWSD-45.4 Plt ___
___ 05:48AM BLOOD Neuts-38.8 Lymphs-13.0* Monos-9.6 
Eos-36.0* Baso-0.5 Im ___ AbsNeut-1.50* AbsLymp-0.50* 
AbsMono-0.37 AbsEos-1.39* AbsBaso-0.02
___ 05:48AM BLOOD Glucose-75 UreaN-6 Creat-0.7 Na-142 K-4.8 
Cl-105 HCO3-28 AnGap-9*
___ 05:48AM BLOOD ALT-17 AST-14 LD(LDH)-194 AlkPhos-49 
TotBili-<0.2
___ 05:48AM BLOOD Calcium-8.4 Phos-4.4 Mg-2.1 UricAcd-3.___RIEF HOSPITAL COURSE 
================================= 
Ms. ___ is a ___ year old woman with multiple myeloma who 
presented from ___ clinic on C1D4 of RVD with asymptomatic 
hypotension. She was given IV fluids and returned to her 
baseline systolic pressures in the ___. Infectious & endocrine 
workup was unremarkable. She was evaluated by endocrinology, who 
felt adrenal insufficiency unlikely. Orthostatics negative. TTE 
showed good heart function. Although Ms. ___ was found to be 
anemic, this was evaluated and felt to be due to her multiple 
myeloma and recent treatments. She was also found to have 
eosinophilia of unknown etiology-workup still pending, but 
possibly due to her underlying multiple myeloma.

TRANSITIONAL ISSUES: 
================================= 
HEME-ONC: 
[]please repeat CBC in 1 week to ensure stable if not improving 
[]please follow-up her ACTH and total cortisol levels that are 
currently pending

ACTIVE PROBLEMS:
======================
#Asymptomatic Hypotension 
DDx for Ms. ___ hypotension included hypovolemia vs. 
cardiomyopathy vs. autonomic neuropathy and resultant 
orthostasis. Orthostatics were negative. TTE revealed good EF 
w/o CMP. AM cortisol wnl, but seen by endocrinology who felt low 
suspicion for AI. Ms. ___ responded well to IVF and was 
discharged with SBP in ___. 

#Multiple Myeloma 
#Back Pain
Ms. ___ on RVD for her kappa restricted multiple myeloma (C1D1 
___ complicated by known L2 fracture s/p radiation. Her RVD 
was held, per Dr. ___ we provided acetaminophen & one 
time dose of dexamethasone 20mg PO for her back and right leg 
pain. Continued her home ASA for VTE ppx, acyclovir for HSV/VZV 
ppx, & bactrim for PJP ppx. 

#Normocytic Anemia
Ms. ___ with asymptommatic anemia. Presented slightly below her 
baseline of ___. Studies consistent with anemia of chronic 
disease. Presumed d/t her underlying malignancy & recent 
radiotherapy. 

#Gastric Wall Thickening
Previously c/f gastric carcinoma, but not avid on PET therefore 
planning for conservative management & follow-up. Has GI 
follow-up ___. 

#Eosinophilia
Unclear etiology, but possibly if AI vs. related to multiple 
myeloma. 

#Hypothyroidism
TSH wnl. Continued her home levothyroxine. 

#GERD
Continued her home omeprazole.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Moderate 
2. Levothyroxine Sodium 25 mcg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Acyclovir 400 mg PO Q12H 
5. Aspirin 81 mg PO DAILY 
6. Dexamethasone 20 mg PO DAYS 1, 2, 8, 9, 15,16 
7. ergocalciferol (vitamin D2) 50,000 unit oral 1X/WEEK 
8. Lenalidomide 25 mg PO AS DIRECTED 
9. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
10. Bortezomib 2.1 mg SC AS DIRECTED 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q8H:PRN Pain - Moderate  
2.  Acyclovir 400 mg PO Q12H  
3.  Aspirin 81 mg PO DAILY  
4.  Bortezomib 2.1 mg SC AS DIRECTED  
5.  Dexamethasone 20 mg PO DAYS 1, 2, 8, 9, 15,16 
***please follow-up with heme onc for further instructions  
6.  ergocalciferol (vitamin D2) 50,000 unit oral 1X/WEEK  
7.  Lenalidomide 25 mg PO AS DIRECTED 
***please follow up with heme-onc for further instructions  
8.  Levothyroxine Sodium 25 mcg PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  Sulfameth/Trimethoprim DS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Asymptomatic hypotension

Secondary:
Multiple myeloma
Hypothyroidism
Anemia
Eosinophilia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,   
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for low blood pressure
 
What was done for me while I was in the hospital?  
- We did blood work to see if there were any reasons for your 
low blood pressure
- We made sure there was no infection causing your blood 
pressure
- We gave you fluids to help raise your blood pressure
- We took pictures of your heart to make sure it is functioning 
properly 
- We had the endocrinologists see you to help determine if you 
have any adrenal insufficiency

What should I do when I leave the hospital?  
- Follow-up with all of your physicians as directed
- Take all of your medications as prescribed
 
Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___